US07074799B2
To a de-gassed mixture of 2-chloro-3-(trifluoromethyl)-pyridine (70.1 mmol), p-tolylboronic acid (70.6 mmol), and 2M Na2CO3 (175.0 mmol), in DME (200 mL) under nitrogen add Pd(PPh3)4 (2.8 mmol). Stir the mixture at 80° C. for overnight, concentrate, extract with EtOAc. Dry over Na2SO4, concentrate under vacuum, pass a silica gel pad to give 2-p-tolyl-3-trifluoromethyl-pyridine.

reactant | 2-chloro-3-(trifluoromethyl)-pyridine | 70.1 mmol | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | p-tolylboronic acid | 70.6 mmol | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | Na2CO3 | 175.0 mmol, 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 200 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 2.8 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-p-tolyl-3-trifluoromethyl-pyridine | C1(=CC=C(C=C1)C1=NC=CC=C1C(F)(F)F)C | C13H10F3N
